US06562828B1
N-(2-Amino-4-cyanophenyl)glycine tert-Butyl Ester
N-(4-Cyano-2-nitrophenyl)glycine tert-butyl ester (17.337 g) was hydrogenated using 7.5% palladium carbon (1.73 g) in tetrahydrofuran (173 ml) at atmospheric pressure for 2 hours and by adding 7.5% palladium carbon (3.84 g) for one more hour. After completion of the reaction, the reaction mixture was filtered through celite and the solvent was evaporated. The obtained residue was washed with diisopropyl ether, collected by filtration and dried under reduced pressure to give the title compound (8.324 g).

reactant | N-(4-Cyano-2-nitrophenyl)glycine tert-butyl ester | 17.337 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)C#N)[N+](=O)[O-])=O | C13H15N3O4
solvent | tetrahydrofuran | 173 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 1.73 g | [C].[Pd]
catalyst | palladium carbon | 3.84 g | [C].[Pd]
product | N-(2-Amino-4-cyanophenyl)glycine tert-Butyl Ester | 8.324 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)C#N)N)=O | C13H17N3O2
